US07538114B2
Synthesis of 2-(4-((4-chlorophenyl)(phenyl)methyl)piperazin-1-yl)acetic acid dihydrochloride
To a solution of tert-butyl 2-(4-((4-chlorophenyl)(phenyl)methyl)piperazin-1-yl)acetate (1.0 g, 2 mmol) in dioxane (10 mL) was added 4N HCl solution in 1,4-dioxane (20 mL, 549 mmol) followed by concentrated HCl (1.0 mL, 27 mmol). The reaction was stirred at 50° C. for 6 h and concentrated under vacuum. The crude product was triturated with EtOAc or diethyl ether, filtered, and dried to give the title compound (0.8 g, 77% yield). MS (ESI, pos. ion) m/z: 345.1 (M+1-2HCl).

reactant | tert-butyl 2-(4-((4-chlorophenyl)(phenyl)methyl)piperazin-1-yl)acetate | 2 mmol, 1.0 g | ClC1=CC=C(C=C1)C(N1CCN(CC1)CC(=O)OC(C)(C)C)C1=CC=CC=C1 | C23H29ClN2O2
reactant | HCl | 4N | Cl | ClH
reactant | HCl | 27 mmol, 1.0 mL | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 549 mmol, 20 mL | O1CCOCC1 | C4H8O2
product | 2-(4-((4-chlorophenyl)(phenyl)methyl)piperazin-1-yl)acetic acid dihydrochloride | 0.8 g, 77% yield | Cl.Cl.ClC1=CC=C(C=C1)C(N1CCN(CC1)CC(=O)O)C1=CC=CC=C1 | InChI=1S/C19H21ClN2O2.2ClH/c20-17-8-6-16(7-9-17)19(15-4-2-1-3-5-15)22-12-10-21(11-13-22)14-18(23)24;;/h1-9,19H,10-14H2,(H,23,24);2*1H
